US07108895B2
Employing a 2 L four-necked flask equipped with a condenser tube, 7.25 g of lithium aluminum hydride was stirred in 290 mL of diethyl ether for 5 minutes. Then, 25.48 g of aluminum chloride as a 280 mL of diethyl ether solution was dropwise added thereto while cooling with ice. After stirring for 5 minutes, 38.26 g of (S)-(+)-1-(4-methoxyphenyl)-2-phenylpropane-1-one as a 245 mL diethyl ether solution was dropwise added thereto. Then, reflux under heating was carried out for 3 hours. After cooling to 0° C., treatment with diluted hydrochloric acid was carried out, extraction with diethyl ether was carried out for liquid separation, and drying over anhydrous sodium sulfate was carried out overnight. After the solvent was distilled off, purification by column chromatography (developing solvent: hexane) was carried out to obtain 30.55 g of (R)-(−)-1-(4-methoxyphenyl)-2-phenylpropane [H-Ph-CH(CH3)—CH2-Ph-OCH3] (yield: 85%).

reactant | lithium aluminum hydride | 7.25 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | 25.48 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | (S)-(+)-1-(4-methoxyphenyl)-2-phenylpropane-1-one | 38.26 g | COC1=CC=C(C=C1)C([C@@H](C)C1=CC=CC=C1)=O | C16H16O2
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 290 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 245 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 280 mL | C(C)OCC | C4H10O
product | (R)-(−)-1-(4-methoxyphenyl)-2-phenylpropane | 30.55 g, yield: 85% | COC1=CC=C(C=C1)C[C@@H](C)C1=CC=CC=C1 | C16H18O
